US04244961
To a 100 ml flask maintained under argon are added 2.22 g of diisopropylamine and 15 ml tetrahydrofuran. The contents of the flask are cooled to 0° and are maintained at that temperature. A solution of 1.5 M n-butyllithium (14.7 ml) is added and the solution is stirred for five minutes. Isobutyric acid (0.88 g) is added and the mixture is stirred for 15 minutes at 20°. The mixture is cooled to -70° and a solution of 2.33 g of N-carbobenzyloxy-4-piperidone in 5 ml tetrahydrofuran is added at such a rate that the temperature remains below -50°. The mixture is allowed to warm to room temperature and is poured into 150 ml diethyl ether. This solution is extracted with two 150 ml portions of 1 N hydrochloric acid, 50 ml of water, and 100 ml of 2% sodium hydroxide. The basic layer is acidified with 10 N hydrochloric acid and the resulting mixture is extracted with three 50 ml portions of diethyl ether. Evaporation of the ether affords an oil which is triturated with 50 ml hexane to give 1.65 g 2-(1-carbobenzyloxy-4-hydroxypiperidin-4-yl)-2-methylpropionic acid, an oil.

reactant | diisopropylamine | 2.22 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.5 M, 14.7 ml | C(CCC)[Li]
reactant | Isobutyric acid | 0.88 g | C(C(C)C)(=O)O | C4H8O2
reactant | N-carbobenzyloxy-4-piperidone | 2.33 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(1-carbobenzyloxy-4-hydroxypiperidin-4-yl)-2-methylpropionic acid | 1.65 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)(O)C(C(=O)O)(C)C | C17H23NO5
